US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[2-(4-amino-3,5-dibromo-phenyl sulfinyl)-ethyl]-methylamine
The title compound is prepared from N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[2-(4-amino-3,5-dibromophenylthio)-ethyl]-methylamine and 30% hydrogen peroxide (in glacial acetic acid) analogously to Example 4.

reactant | N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[2-(4-amino-3,5-dibromophenylthio)-ethyl]-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCSC2=CC(=C(C(=C2)Br)N)Br)C)=O)C=C1OC | C24H31Br2N3O3S
reactant | hydrogen peroxide | OO | H2O2
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[2-(4-amino-3,5-dibromo-phenyl sulfinyl)-ethyl]-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCS(=O)C2=CC(=C(C(=C2)Br)N)Br)C)=O)C=C1OC | C24H31Br2N3O4S
